US04352818
8.2 g of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid are heated to 300°. After completion of the carbon dioxide evolution, the residue is left to cool and the material is recrystallized from chloroform/hexane. After drying, there is obtained 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 212°-213°.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 8.2 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
reactant | carbon dioxide | C(=O)=O | CO2
product | 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2 | C12H11N3O
